US07253192B2
A] 2-{4-[2,2-Dimethyl-5-(4-trifluoromethoxy-phenyl)-pent-4-ynylsulfanyl]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester
A solution of 0.109 g (0.40 mmol) 2,2-dimethyl-5-(4-trifluoromethoxy-phenyl)-pent-4-yn-1-ol (example 24E]) in 0.4 ml CH2Cl2 was treated at 0° C. with 0.11 ml (0.48 mmol) 2,6-di-tert-butylpyridine and 0.07 ml (0.44 mmol) trifluoromethanesulfonic anhydride. After 1.5 h at 0° C. the solution was evaporated, dissolved in 1.5 ml acetonitrile and added to a suspension of 0.142 g (0.48 mmol) of 2-(4-acetylsulfanyl-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (example 1C]) and 0.274 g (0.84 mmol) of Cs2CO3 in 2.5 ml of acetonitrile and 0.1 ml of MeOH. After vigorous stirring for 20 h at ambient temperature and filtration, the solvent was evaporated and the residue re-dissolved in dichloromethane and filtered again and evaporated. Purification by flash chromatography (SiO2, n-heptane/EtOAc 2.5%) yielded 0.18 g of the title compound as colorless viscous oil.

reactant | 2,2-dimethyl-5-(4-trifluoromethoxy-phenyl)-pent-4-yn-1-ol | 0.40 mmol, 0.109 g | CC(CO)(CC#CC1=CC=C(C=C1)OC(F)(F)F)C | C14H15F3O2
reactant | 2,6-di-tert-butylpyridine | 0.48 mmol, 0.11 ml | C(C)(C)(C)C1=NC(=CC=C1)C(C)(C)C | C13H21N
reactant | trifluoromethanesulfonic anhydride | 0.44 mmol, 0.07 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2-(4-acetylsulfanyl-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | 0.48 mmol, 0.142 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)SC(C)=O)C)=O | C15H20O4S
reactant | Cs2CO3 | 0.84 mmol, 0.274 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | CH2Cl2 | 0.4 ml | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 2.5 ml | C(C)#N | C2H3N
solvent | MeOH | 0.1 ml | CO | CH4O
product | 2-{4-[2,2-Dimethyl-5-(4-trifluoromethoxy-phenyl)-pent-4-ynylsulfanyl]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester | 0.18 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)SCC(CC#CC1=CC=C(C=C1)OC(F)(F)F)(C)C)C)=O | C27H31F3O4S
